US05196610
A mixture of 1,1,1-trifluoro-2-(4-ethoxyphenyl)propan-3-ol (0.4 g), 3-phenoxybenzyl bromide (0.45 g), tetra-n-butylammonium hydrogen sulphate (0.05 g) and aqueous sodium hydroxide solution (40% w/v, 5.0 cm3) was stirred at the ambient temperature for 6 hours after which it was partitioned between water and diethyl ether. The ethereal phase was separated, washed twice with water, dried over anhydrous magnesium sulphate and concentrated by evaporation of the solvent under reduced pressure. The residual oil (0.75 g) was purified by chromatography on a silica gel column eluted with a mixture of hexane (23 parts by volume) and ethyl acetate (2 parts by volume) to yield 1,1,1-trifluoro-2-(4-ethoxyphenyl)-3-(3-phenoxybenzyloxy) propane (0.21 g) as a viscous oil.

reactant | 1,1,1-trifluoro-2-(4-ethoxyphenyl)propan-3-ol | 0.4 g | FC(C(CO)C1=CC=C(C=C1)OCC)(F)F | C11H13F3O2
reactant | 3-phenoxybenzyl bromide | 0.45 g | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
reactant | sodium hydroxide | 5.0 cm3 | [OH-].[Na+]
catalyst | tetra-n-butylammonium hydrogen sulphate | 0.05 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1,1,1-trifluoro-2-(4-ethoxyphenyl)-3-(3-phenoxybenzyloxy) propane | 0.21 g | FC(C(COCC1=CC(=CC=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)OCC)(F)F | C24H23F3O3
